US08377704B2
Phenyl-4-methoxyphenyliodonium hexafluorophosphate was synthesized according to the procedure described for the synthesis of bis(p-methoxyphenyl)iodonium hexafluorophosphate from the corresponding aryliodonium diacetate and anisole. (77.9%)

reactant | bis(p-methoxyphenyl)iodonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.COC1=CC=C(C=C1)[I+]C1=CC=C(C=C1)OC
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
product | Phenyl-4-methoxyphenyliodonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.C1(=CC=CC=C1)[I+]C1=CC=C(C=C1)OC | InChI=1S/C13H12IO.F6P/c1-15-13-9-7-12(8-10-13)14-11-5-3-2-4-6-11;1-7(2,3,4,5)6/h2-10H,1H3;/q+1;-1
